US09301951B2
Intermediate 73c: N-(2-(2-amino-5-(piperidin-1-yl)phenyl)pyridin-4-yl)-3-(trifluoromethyl)benzamide
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of N-(2-chloropyridin-4-yl)-3-(trifluoromethyl)benzamide (350 mg, 1.16 mmol, 1.00 equiv), 4-(piperidin-1-yl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine (430 mg, 1.42 mmol, 1.20 equiv), Pd(PPh3)2Cl2 (81.7 mg, 0.12 mmol, 0.10 equiv), K3PO4.7H2O (790 mg, 2.33 mmol, 2.00 equiv), X-PHOS (91.6 mg, 0.23 mmol, 0.20 equiv) in DME/H2O (10:1) (30/3 mL). The resulting solution was stirred for 2 h at 80° C. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The residual solution was diluted with 50 mL of water. The resulting solution was extracted with 2×50 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (100˜100:1˜40:1). This resulted in 350 mg (67%) of N-(2-(2-amino-5-(piperidin-1-yl)phenyl)pyridin-4-yl)-3-(trifluoromethyl)benzamide as a yellow solid

reactant | N-(2-chloropyridin-4-yl)-3-(trifluoromethyl)benzamide | 1.16 mmol, 350 mg, 1.00 equiv | ClC1=NC=CC(=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C13H8ClF3N2O
reactant | 4-(piperidin-1-yl)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine | 1.42 mmol, 430 mg, 1.20 equiv | N1(CCCCC1)C1=CC(=C(C=C1)N)B1OC(C(O1)(C)C)(C)C | C17H27BN2O2
reactant | X-PHOS | 0.23 mmol, 91.6 mg, 0.20 equiv | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | DME H2O | 3 mL | COCCOC.O
catalyst | Pd(PPh3)2Cl2 | 0.12 mmol, 81.7 mg, 0.10 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(2-(2-amino-5-(piperidin-1-yl)phenyl)pyridin-4-yl)-3-(trifluoromethyl)benzamide | NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C24H23F3N4O
